US04889867
A solution of 2.3 grams (0.012 mole of 2-(4-chloro(phenyl)thiazole in 20 ml of diethyl ether was cooled to -78° C. To this solution was added 4.72 ml of a 2.5 M solution of n-butyllithium in hexanes. This mixture was stirred for 30 minutes. A solution of 3.3 grams (0.012 mole) of 1,2-diiodoethane in 15 ml of diethyl ether was added, and the resultant mixture was allowed to warm to room temperature and stir for approximately 18 hours. Approximately 50 ml of an aqueous, saturated ammonium chloride solution was added, and the resultant mixture was poured into a separatory funnel. The organic phase was washed with water followed by an aqueous, saturated sodium chloride solution. The washed organic phase was dried over anhydrous sodium sulfate and was filtered. The filtrate was evaporated under reduced pressure leaving a residue. This residue was purified by column chromatography on silica gel, eluting with methylene chloride:n-hexane (3:1), to yield 2.6 grams of 2-(4-chlorophenyl)- 5-iodothiazole as a solid.

reactant | 4-chloro(phenyl)thiazole | ClC=1N=C(SC1)C1=CC=CC=C1 | C9H6ClNS
reactant | n-butyllithium | C(CCC)[Li]
reactant | 1,2-diiodoethane | 0.012 mole, 3.3 grams | ICCI | C2H4I2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 15 ml | C(C)OCC | C4H10O
product | 2-(4-chlorophenyl)- 5-iodothiazole | 2.6 grams | ClC1=CC=C(C=C1)C=1SC(=CN1)I | C9H5ClINS
